US09227976B2
Step 4: 2-[1-methyl-5-phenyl-4-(2-phenylethynyl)pyrazol-3-yl]isoindoline-1,3-dione
Nitrogen was bubbled through a mixture of 2-(4-iodo-1-methyl-5-phenyl-pyrazol-3-yl)isoindoline-1,3-dione (660 mg, 1.49 mmol), phenyl acetylene (182 mg, 1.78 mmol), triethylamine (8 mL) and DMF (3 mL) for 15 min. Copper iodide (28 mg, 0.149 mmol) and bis(triphenylphosphine)palladium(II) dichloride (52 g, 0.074 mmol) were added and the reaction mixture was stirred at 90° C. under nitrogen for 3 h. The reaction mixture was cooled to room temperature, diluted with ethyl acetate and water. The organic phase was washed with water and brine, dried (MgSO4), filtered and concentrated in vacuo. The residue was purified by column chromatography (silica gel, isohexane/ethyl acetate 8:2 to 6:4) yielding the title compound as a solid (600 mg).

reactant | 2-(4-iodo-1-methyl-5-phenyl-pyrazol-3-yl)isoindoline-1,3-dione | 1.49 mmol, 660 mg | IC=1C(=NN(C1C1=CC=CC=C1)C)N1C(C2=CC=CC=C2C1=O)=O | C18H12IN3O2
reactant | phenyl acetylene | 1.78 mmol, 182 mg | C1(=CC=CC=C1)C#C | C8H6
reactant | triethylamine | 8 mL | C(C)N(CC)CC | C6H15N
reactant | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
catalyst | Copper iodide | 0.149 mmol, 28 mg | [Cu](I)I
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 0.074 mmol, 52 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-[1-methyl-5-phenyl-4-(2-phenylethynyl)pyrazol-3-yl]isoindoline-1,3-dione | 600 mg | CN1N=C(C(=C1C1=CC=CC=C1)C#CC1=CC=CC=C1)N1C(C2=CC=CC=C2C1=O)=O | C26H17N3O2
